US06034099
From the reaction of 2-pyridylhydrazine and ethylbutyrylacetate, 2,4-dihydro-2-(2-pyridyl)-5-propyl-3H-pyrazol-3-one is obtained. Subsequent reaction with 2-ethylaniline yields 4-(2-ethylanilinomethylene)-2,4-dihydro-2-(2-pyridyl)-5-propyl-3H-pyrazol-3-one, Mp 151° C.

reactant | 2-pyridylhydrazine | N1=C(C=CC=C1)NN | C5H7N3
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | 2,4-dihydro-2-(2-pyridyl)-5-propyl-3H-pyrazol-3-one | N1=C(C=CC=C1)N1N=C(CC1=O)CCC | C11H13N3O
